US07465731B2
To a solution of (2E)-3-(5-{[(3R)-1-(4-chlorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (1.43 g) in methanol (16 mL) was added hydrogen chloride in methanol (6.24 mL). After stirring at room temperature for 1 hour, the reaction mixture was evaporated in vacuo and triturated with ethyl acetate to give (2E)-3-(5-{[(3R)-1-(4-chlorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride (1.40 g).

reactant | (2E)-3-(5-{[(3R)-1-(4-chlorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 1.43 g | ClC1=CC=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=C1 | C23H28ClN5O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 16 mL | CO | CH4O
solvent | methanol | 6.24 mL | CO | CH4O
product | (2E)-3-(5-{[(3R)-1-(4-chlorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride | 1.40 g | Cl.Cl.ClC1=CC=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NO)C=C1 | InChI=1S/C18H20ClN5O2.2ClH/c19-14-3-1-13(2-4-14)11-24-8-7-16(12-24)22-17-10-20-15(9-21-17)5-6-18(25)23-26;;/h1-6,9-10,16,26H,7-8,11-12H2,(H,21,22)(H,23,25);2*1H/b6-5+;;/t16-;;/m1../s1
